US07884207B2
3-Chloroperoxybenzoic acid (8.37 g of 70% pure material, 34 mmol) was added to a suspension of 1-{[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol (8.0 g, 24 mmol) in chloroform (100 mL), and the reaction was stirred at room temperature for four hours. Saturated aqueous sodium bicarbonate (100 mL) was added, and the mixture was stirred for 15 minutes. A precipitate formed and was isolated by filtration to provide 1-{[2-(chloromethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol as a white solid.

reactant | 3-Chloroperoxybenzoic acid | 34 mmol, 8.37 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-{[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | 24 mmol, 8.0 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)O | C18H20ClN3O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{[2-(chloromethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | ClCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CC1(CCCCC1)O | C18H20ClN3O2
